US05750531
Step 3: 4-(2-Methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 4-fluoro-2-methylaniline(0.3 ml, 2.7 mmol) was added to a mixture solution of 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloro-5,6,7,8-tetrahydroquinazoline(0.3 g, 1.0 mmol) and dimethylformamide(5 ml), 0.2 g of the titled compound was prepared in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoro-2-methylaniline | 2.7 mmol, 0.3 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloro-5,6,7,8-tetrahydroquinazoline | 1.0 mmol, 0.3 g | C1N(CCC2=CC=CC=C12)C1=NC=2CCCCC2C(=N1)Cl | C17H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-Methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.2 g, Yield: 47.1% | Cl.CC1=C(C=CC(=C1)F)NC1=NC(=NC=2CCCCC12)N1CC2=CC=CC=C2CC1 | InChI=1S/C24H25FN4.ClH/c1-16-14-19(25)10-11-21(16)26-23-20-8-4-5-9-22(20)27-24(28-23)29-13-12-17-6-2-3-7-18(17)15-29;/h2-3,6-7,10-11,14H,4-5,8-9,12-13,15H2,1H3,(H,26,27,28);1H
